Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:8]=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-3.4058119837700005
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])=[C:10]=[C:11]([H:12])[H:13].[H:9],1.90056326799
[O:1]=[C:2]([H:3])[C:4]#[C:5].[O:6][H:7]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],-6.977617800489999
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:7],1.75173279667
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9].[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.95629811849
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.6079872442
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[H:8]>>[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],4.69405410682
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],2.68687972676
[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1],4.226278195430003
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.91793603826
[O:1][C@@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1],3.65153022262
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3][C:10]([H:11])([H:12])[H:13],7.14427881359
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],7.59948935859
[C:6]([H:7])#[C:8][H:9].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8][H:9],-2.9553558687400003
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],5.24144325809
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.30050969322
[C:2](#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.79935949448
[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[C:5][H:6].[O:1][O:2][C:3][H:4],7.58926627746
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-0.73389025404
[H:6].[O:1]=[C:2]=[C:3][C:4]([H:5])[C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],-2.07824464604
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4],3.91315985929
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:12][H:13].[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],-1.63131904092
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:9](\[H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12],-4.93474843701
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-1.41913840364
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]=[C:3]1[O:4][C:5]1=[C:6]([H:7])[H:8],-0.54198526088
[C:6]#[C:7][C:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8][C:9]([H:10])[H:11],-3.6061602081
[H:4].[O:1]=[C:2]=[C:3]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C@:3]([H:4])([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.42995419438
[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12],-7.348751323150001
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-5.92982384371
[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[C:3][H:4])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-6.01307318072
